.SUBCKT LM5023  CS QR SS COMP VCC VSD OUT GND
E_U1_ABM7         U1_N15810908 0 VALUE { IF(V(U1_N15810822)<2.5 &
+  V(U1_OUT_Q)>2.5, 5, 0)    }
R_U1_R24         U1_N15885387 U1_SET  500  
R_U1_R20         U1_N15821987 N01289  500  
G_U1_ABMI3         GND SS VALUE { 22u    }
X_U1_U2         U1_SET U1_RESET U1_OUT_Q srlatch
C_U1_C19         U1_DMAG_12U GND  100p   
R_U1_R21         U1_N15822125 N00063  500  
*T_U1_T3         U1_OUT_Q GND U1_N15909853 GND Z0=100000 TD=70n
au1T3 u1_out_q 0 0 0 0 0 u1_N15909853 0 schmitt trise=5n Vhigh=5 Vt=2.5 Vh=20m td=65n
C_U1_C15         N00049 GND  3p   
X_U1_U1         U1_N15856351 U1_N15856421 U1_N15856483 SRLATCH
E_U1_ABM21         U1_N15885387 0 VALUE { IF(V(U1_ENABLE)>2.5 &
+  V(U1_MAX_FREQ_CL)<2.5  & V(U1_RESET)<2.5 & V(U1_DMAG_SET)>2.5 , 5, 0)    }
R_U1_R2         U1_N15856395 U1_N15856421  500  
C_U1_C21         U1_ENABLE GND  3p   
X_U1_S9    U1_OUT_Q GND OUT GND INTERNAL_U1_S9
G_U1_ABMII4         U1_OVP_900N GND VALUE { IF(V(U1_OUT_Q)<2.5, -277.77u, 0)  }
R_U1_R14         U1_N15801264 COMP  1  
C_U1_C22         U1_VDMAG_INI GND  3p   
E_U1_ABM5         U1_N15807163 0 VALUE { IF(V(VCC)<5, 5, 0)    }
Q_U1_Q1         U1_N15943214 GND QR NPN
E_U1_ABM20         U1_N159101451 0 VALUE { IF(V(QR)<0.35, 5, 0)    }
V_U1_V4         U1_N15801264 U1_N15801092 0.75
C_U1_C6         U1_EN_OVP GND  3p   
R_U1_R12         U1_COMP2 U1_N15801092  100k  
C_U1_C14         U1_RESET GND  3p   
X_U1_S5    U1_OUT_Q GND U1_OVP_900N GND INTERNAL_U1_S5
D_U1_D7         U1_N15801652 COMP D5K
R_U1_R13         GND U1_COMP2  50k  
C_U1_C24         U1_MAX_1 GND  3p   
R_U1_R30         U1_N15879764 U1_MAX_1  500  
R_U1_R25         U1_N159107352 U1_MAX_FREQ_CL  500  
X_U1_S3    U1_ENABLE GND SS GND INTERNAL_U1_S3
E_U1_ABM10         U1_N15806140 0 VALUE { IF(V(QR)>3 & V(U1_OVP_900N)>=2.5, 5,  0)    }
E_U1_ABM24         U1_N159103011 0 VALUE { IF( V(N01289)> 2.5 | V(U1_VSKIP)>2.5
+  | V(N00063)>2.5, 5, 0)    }
V_U1_V5         U1_N15801298 GND 4.4437
G_U1_ABMI1         U1_CS_IPT GND VALUE { I(V_U1_VQR)/100    }
X_U1_S2    U1_TLEB GND CS GND INTERNAL_U1_S2
C_U1_C25         U1_N15879806 GND  60p   
R_U1_R6         U1_N15807163 U1_VCC_RST  500  
G_U1_ABMII6         VCC GND VALUE { IF(V(U1_ENABLE) >2.5, 0.529m, 0.340m)    }
V_U1_VQR         U1_N15943508 GND 5
C_U1_C17         U1_MAX_FREQ_CL GND  3p   
X_U1_S7    U1_MAX_FREQ_CL GND U1_N15879806 GND INTERNAL_U1_S7
C_U1_C5         U1_VCC_RST GND  3p   
C_U1_C7         U1_TLEB GND  3p   
E_U1_ABM19         U1_N159105471 0 VALUE { IF( V(N00049)> 2.5 &
+  V(U1_EN_OVP)<2.5 & V(N00055)>2.5, 5, 0)    }
R_U1_R23         U1_N15856483 N00049  500  
D_U1_D10         OUT VCC D_D1
R_U1_R1         U1_N15856345 U1_N15856351  500  
E_U1_ABM16         U1_N15801394 0 VALUE { IF(V(COMP)>1.655, 0,
+  if(v(COMP)<1.625, 5, v(U1_VSKIP)))    }
R_U1_R15         U1_N15801394 U1_VSKIP  500  
E_U1_ABM13         U1_N15822125 0 VALUE { IF(V(U1_CS_IPT)>0.5, 5, 0)    }
G_U1_ABMII5         U1_DMAG_12U GND VALUE { IF(V(U1_OUT_Q)<2.5, -20.833u, 0)  }
C_U1_C18         U1_OVP_900N GND  100p   
X_U1_S8    U1_OUT_Q GND VCC OUT INTERNAL_U1_S8
X_U1_U5         U1_OVP_SET U1_VCC_RST U1_N15808125 srlatch
R_U1_R29         U1_TOVP1 U1_N15909995  500  
R_U1_R11         U1_N15801254 COMP  42k  
R_U1_R8         CS U1_CS_IPT  6.6k  
E_U1_ABM12         U1_N15821987 0 VALUE { IF(V(U1_CS_IPT)>V(U1_COMP2), 5, 0)  }
X_U1_U4         U1_TOVP1 U1_MAX_1 U1_N159107352 srlatch
R_U1_R10         U1_N15810908 U1_TLEB  500  
E_U1_E5         U1_N159102590 GND VALUE { V(SS, GND)-0.2 }
D_U1_D5         COMP U1_N159102590 D5K
C_U1_C20         U1_N15909995 GND  3p   
R_U1_R7         U1_N15808125 U1_EN_OVP  500  
E_U1_ABM22         U1_N15879764 0 VALUE { IF(V(U1_N15879806)>4, 5, 0)    }
R_U1_R18         U1_N15943508 U1_N15943214  1  
X_U1_S6    U1_OUT_Q GND U1_DMAG_12U GND INTERNAL_U1_S6
V_U1_V3         U1_N15801652 GND 0.77
E_U1_ABM11         U1_N15818989 0 VALUE { IF(V(U1_VDMAG_INI)>2.5 |
+  V(U1_DMAG_12U)>2.5, 5, 0)    }
*T_U1_T2         U1_OUT_Q GND U1_N15810822 GND Z0=100000 TD=90n
au1T2 u1_out_q 0 0 0 0 0 u1_N15810822 0 schmitt trise=5n Vhigh=5 Vt=2.5 Vh=20m td=85n
C_U1_C11         U1_DMAG_SET GND  3p   
R_U1_R17         U1_N15806140 U1_OVP_SET  500  
C_U1_C13         N00063 GND  3p   
E_U1_ABM2         U1_N15856395 0 VALUE { IF(V(VCC)<7.5, 5, 0)    }
R_U1_R22         U1_N159103011 U1_RESET  500  
C_U1_C1         U1_N15856351 GND  3p   
D_U1_D9         SS U1_N15801298 D5K
C_U1_C10         U1_OVP_SET GND  3p   
R_U1_R27         U1_N159105471 U1_ENABLE  500  
V_U1_V2         U1_N15801254 GND 5
C_U1_C12         N01289 GND  3p   
C_U1_C9         U1_VSKIP GND  3p   
C_U1_C16         U1_SET GND  3p   
R_U1_R28         U1_N159101451 U1_VDMAG_INI  500  
R_U1_R26         U1_N15909853 GND  100k  
E_U1_ABM15         U1_TOVP1 0 VALUE { IF(V(U1_OUT_Q)<2.5 & V(U1_N15909853)>2.5,  5, 0)    }
E_U1_ABM1         U1_N15856345 0 VALUE { IF(V(VCC)>=12.5, 5, 0)    }
G_U1_ABMI4         GND U1_N15879806 VALUE { IF(V(N00049)>2.5, 30.41u, 0)    }
R_U1_R9         U1_N15810822 GND  100k  
D_U1_D11         GND OUT D_D1
C_U1_C2         U1_N15856421 GND  3p   
R_U1_R19         U1_N15818989 U1_DMAG_SET  500  
R_U2_R21         U2_N157973101 U2_COUNT_CT  500  
R_U2_R24         U2_N15764499 U2_COUNT_4  500  
G_U2_ABMII4         U2_N15764553 0 VALUE { IF(V(U2_COUNT_CT)>=2.5, -335u, 0)  }
C_U2_C18         U2_N15764553 0  50p   
C_U2_C14         U2_COUNT_CT 0  3p   
C_U2_C9         U2_OLDTS_RESET 0  3p   
X_U2_S1    N00049 0 VSD U2_N15768907 HICCUP_MODE_U2_S1
C_U2_C7         U2_N15763467 0  3p   
X_U2_U5         U2_N15763467 U2_EN_HIC_RESET U2_N15796807 SRLATCH
E_U2_ABM8         U2_N15761235 0 VALUE { IF(V(U2_OLDTS)>2.5 & V(N00063)<2.5, 5,  0)    }
V_U2_VVSD         U2_N15768907 0 0Vdc
G_U2_ABMII3         U2_N15801150 0 VALUE { IF(V(U2_H_CTL)>2.5, -I(V_U2_VVSD),  0)    }
R_U2_R11         U2_N15761235 U2_N15761263  500  
R_U2_R22         U2_N15801134 U2_OLDTS  500  
C_U2_C10         U2_EN_HIC_RESET 0  3p   
E_U2_ABM7         U2_N15763439 0 VALUE { IF(V(U2_OLDTS)>2.5 & V(N00063)>2.5, 5,  0)    }
C_U2_C13         U2_N15801150 0  60n   
E_U2_ABM13         U2_N157973101 0 VALUE { IF(V(N00049)>2.5 &
+  V(U2_N15764695)<2.5, 5, 0)    }
C_U2_C21         U2_N15796676 0  3p   
R_U2_R27         U2_N15796807 U2_N15796676  500  
C_U2_C15         U2_OLDTS 0  3p   
R_U2_R12         U2_N15762334 U2_OLDTS_RESET  500  
R_U2_R26         U2_N15765322 N00055  500  
X_U2_S5    N00055 0 U2_N15764553 0 HICCUP_MODE_U2_S5
R_U2_R10         U2_N15763439 U2_N15763467  500  
X_U2_S4    U2_H_CTL 0 U2_N15801150 0 HICCUP_MODE_U2_S4
E_U2_ABM14         U2_N15801134 0 VALUE { IF(V(U2_N15801150)>=4, 5, 0)    }
R_U2_R13         U2_N15766048 U2_EN_HIC_RESET  500  
E_U2_ABM9         U2_N15762334 0 VALUE { IF(V(U2_N15761263)>2.5 |
+  V(U2_COUNT_4)>2.5, 5, 0)    }
E_U2_ABM18         U2_N15765322 0 VALUE { IF(V(U2_N15796676)>2.5, 0, 5)    }
E_U2_ABM16         U2_N15764499 0 VALUE { IF(V(U2_N15764553)>=3.8, 5, 0)    }
*R_U2_R20         U2_N15764695 0  100000  
C_U2_C8         U2_N15761263 0  3p   
*T_U2_T3         N00049 0 U2_N15764695 0 Z0=100000 TD=150n
au2T3 n00049 0 0 0 0 0 U2_N15764695 0 schmitt trise=5n Vhigh=5 Vt=2.5 Vh=20m td=85n
C_U2_C17         U2_COUNT_4 0  3p   
X_U2_U4         N00063 N01289 U2_H_CTL SRLATCH
C_U2_C20         N00055 0  3p   
E_U2_ABM10         U2_N15766048 0 VALUE { IF(V(U2_COUNT_4)>2.5 & V(N00049)<2.5,  5, 0)    }
 
.subckt INTERNAL_U1_S9 1 2 3 4
S_U1_S9         3 4 1 2 _U1_S9
RS_U1_S9         1 2 1G
.MODEL         _U1_S9 VSWITCH Roff=1e6 Ron=7.1428 Voff=2.41 Von=2.39
.ends INTERNAL_U1_S9
 
.subckt INTERNAL_U1_S5 1 2 3 4
S_U1_S5         3 4 1 2 _U1_S5
RS_U1_S5         1 2 1G
.MODEL         _U1_S5 VSWITCH Roff=10000e6 Ron=1.0m Voff=2.49 Von=2.51
.ends INTERNAL_U1_S5
 
.subckt INTERNAL_U1_S3 1 2 3 4
S_U1_S3         3 4 1 2 _U1_S3
RS_U1_S3         1 2 1G
*.MODEL         _U1_S3 VSWITCH Roff=100e6 Ron=1.0 Voff=2.51 Von=2.49
.MODEL         _U1_S3 SW Ron=100e6 Roff=5.0 Vt==2.5 Vh=30m ilimit=100m
.ends INTERNAL_U1_S3
 
.subckt INTERNAL_U1_S2 1 2 3 4
S_U1_S2         3 4 1 2 _U1_S2
RS_U1_S2         1 2 1G
.MODEL         _U1_S2 VSWITCH Roff=100e6 Ron=35 Voff=2.49 Von=2.51V
.ends INTERNAL_U1_S2
 
.subckt INTERNAL_U1_S7 1 2 3 4
S_U1_S7         3 4 1 2 _U1_S7
RS_U1_S7         1 2 1G
.MODEL         _U1_S7 VSWITCH Roff=100e6 Ron=1.0m Voff=2.51 Von=2.49
.ends INTERNAL_U1_S7
 
.subckt INTERNAL_U1_S8 1 2 3 4
S_U1_S8         3 4 1 2 _U1_S8
RS_U1_S8         1 2 1G
.MODEL         _U1_S8 VSWITCH Roff=1e6 Ron=16.67 Voff=2.59 Von=2.61
.ends INTERNAL_U1_S8
 
.subckt INTERNAL_U1_S6 1 2 3 4
S_U1_S6         3 4 1 2 _U1_S6
RS_U1_S6         1 2 1G
.MODEL         _U1_S6 VSWITCH Roff=10000e6 Ron=1.0m Voff=2.49 Von=2.51
.ends INTERNAL_U1_S6
 
.subckt HICCUP_MODE_U2_S1 1 2 3 4
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1000e6 Ron=1.0 Voff=2.49 Von=2.51V
.ends HICCUP_MODE_U2_S1
 
.subckt HICCUP_MODE_U2_S5 1 2 3 4
S_U2_S5         3 4 1 2 _U2_S5
RS_U2_S5         1 2 1G
.MODEL         _U2_S5 VSWITCH Roff=10000e6 Ron=1.0m Voff=2.49 Von=2.51
.ends HICCUP_MODE_U2_S5
 
.subckt HICCUP_MODE_U2_S4 1 2 3 4
S_U2_S4         3 4 1 2 _U2_S4
RS_U2_S4         1 2 1G
.MODEL         _U2_S4 VSWITCH Roff=10000e6 Ron=1.0m Voff=2.51 Von=2.49
.ends HICCUP_MODE_U2_S4
 
.SUBCKT srlatch S R Q
RD2   20 22 500
CD2   22 0 3p ic=0
a1 22 0 0 0 0 0 Q 0 schmitt trise=5n Vhigh=5 Vt=2.5 Vh=20m td=1n
bEQ  0  20 i=IF(v(S)>2.5 & v(R)<2.5, 5, if(v(R)>2.5 & v(S)<2.5, 0 ,IF(v(S)>2.5 & v(R)>2.5, 0,  v(22)))) Rpar=1 Cpar=30p
.ENDS
 
.MODEL DD D( vfwd=0.006 ron=1m epsilon=0.5m)
 
.MODEL D_D1 D( vfwd=0.06 ron=1m epsilon=5m)
 
.MODEL D_D2 D( vfwd=0.5 ron=1m epsilon=50m)
 
.MODEL D5K D( vfwd=0.5 ron=1m epsilon=50m)
 
.MODEL NPN NPN
 
.SUBCKT DFF Q QB CLK D
R1 CLK CLK1 250
C1 CLK1 0 43.37p
ECLKINT CLK2 0 VALUE={IF(V(CLK)>2.5 & V(CLK1)<2.5, 5, 0)}
R2 CLK2 CLKINT 500
C2 CLKINT 0 3p
bGQ 0 Qint i=IF(V(CLKint)> 2.5, IF(V(D)> 2.5,1m,-1m),0) rpar=1Gig Cpar=2p
D_D10 Qint MY5 DD2
c qint 0 10f
V1 MY5 0 5
D_D11 0 Qint DD2

aq QINT 0 0 0 0 0 Q 0 buf  Vhigh=5  Rout=1k Cout=36.23p

aqb Q 0 0 0 0 QB 0 0 buf  Vhigh=5  Rout=500 Cout=3p
.MODEL DD2 D( vfwd=0.5 ron=1m epsilon=50m)
.ENDS DFF
.ENDS LM5023
 
